data/mechanisms/records/IMS8-EQ8.65b.json
{"mechanism_id": "IMS8-EQ8.65b", "species": [{"species_id": "methylcyclohexanone_molecular_ion", "mapped_smiles": "[O+:1]=[C:2]1[CH:3]([CH3:8])[CH2:4][CH2:5][CH2:6][CH:7]1[1H:9]", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "ring_opened_distonic_ion", "mapped_smiles": "[O+:1]#[C:2][CH:7]([1H:9])[CH2:6][CH2:5][CH2:4][CH:3][CH3:8]", "role": "intermediate", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "rearranged_alpha_acyl_radical_ion", "mapped_smiles": "[O+:1]#[C:2][CH:7][CH2:6][CH2:5][CH2:4][CH:3]([1H:9])[CH3:8]", "role": "product_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["methylcyclohexanone_molecular_ion"]}, {"state_id": "state_distonic", "species_ids": ["ring_opened_distonic_ion"]}, {"state_id": "state_products", "species_ids": ["rearranged_alpha_acyl_radical_ion"]}], "steps": [{"step_id": "step_alpha_cleavage_ring_opening", "from_state": "state_precursor", "to_state": "state_distonic", "step_class": "alpha_cleavage", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "atom", "atom_maps": [1]}, "target": {"type": "bond", "atom_maps": [1, 2]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [2, 3]}, "target": {"type": "bond", "atom_maps": [1, 2]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [2, 3]}, "target": {"type": "atom", "atom_maps": [3]}, "electron_count": 1}], "reaction_smirks": null, "reversible": true}, {"step_id": "step_hydrogen_rearrangement", "from_state": "state_distonic", "to_state": "state_products", "step_class": "hydrogen_rearrangement", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "bond", "atom_maps": [7, 9]}, "target": {"type": "bond", "atom_maps": [3, 9]}, "electron_count": 1}, {"source": {"type": "atom", "atom_maps": [3]}, "target": {"type": "bond", "atom_maps": [3, 9]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [7, 9]}, "target": {"type": "atom", "atom_maps": [7]}, "electron_count": 1}], "reaction_smirks": null, "reversible": true}], "evidence": [{"evidence_id": "evidence_step_alpha_cleavage", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_alpha_cleavage_ring_opening", "support_type": "textbook_proposed", "locator": {"page": 187, "equation": "8.65", "section": "8.9 Decompositions of cyclic structures"}, "confidence": 0.85, "curator_note": "Book draws 2 arc(s) on the centre (six-membered ring) structure of Equation 8.65; moves <1,2> are drawn, move <3> is an implicit homolysis hook required for electron balance (not drawn on the page). Drawn arc 1 starts at the printed '+.' on the oxygen (the C=O is drawn intact, so the odd electron is localized on O, convention B) and its barb points into the C(2)-O(1) bond; drawn arc 2 has its tail on the ring bond C(2)-C(3) - the bond joining the carbonyl carbon to the alpha carbon that carries the CH2R substituent - and its barb points into that same C-O bond, which therefore rises from double to triple (acylium). The undrawn move 3 carries the second electron of the cleaved C(2)-C(3) bond onto C(3); the book does not draw that hook, it simply prints the resulting radical dot on that carbon in the next structure. Because the carbonyl carbon is IN the ring, this alpha cleavage only OPENS the ring - no mass is lost yet - giving the distonic acylium/alkyl radical ion the page draws in the second row. The page draws an equilibrium (a down and an up arrow), hence reversible=true. Map numbers: 1 = the carbonyl O, 2 = the carbonyl C, 3 = the alpha carbon that bears the CH2R side chain and is cleaved off the carbonyl carbon, 4, 5 and 6 = the remaining ring CH2 groups, 7 = the other alpha carbon (the one on which the book draws an explicit H in the next structure), 8 = the side-chain carbon (R = H instantiation, so CH2R = CH3), 9 = that drawn hydrogen."}, {"evidence_id": "evidence_step_hydrogen_rearrangement", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_hydrogen_rearrangement", "support_type": "textbook_proposed", "locator": {"page": 187, "equation": "8.65", "section": "8.9 Decompositions of cyclic structures"}, "confidence": 0.85, "curator_note": "Book draws 2 arc(s) on the second-row (ring-opened) structure; moves <1,2> are drawn, move <3> is an implicit homolysis hook required for electron balance (not drawn on the page). Drawn arc 1 has its tail on the explicitly printed C(7)-H(9) sigma bond (the book writes that H out, on the carbon next to the acylium) and its barb points to the gap between that H and the radical carbon, i.e. into the FORMING C(3)-H(9) bond; drawn arc 2 has its tail on the radical dot printed on C(3) and its barb points to the same gap. The two barbs meet there, which is exactly the two electrons the new C-H bond needs. The undrawn move 3 carries the second electron of the broken C(7)-H(9) bond onto C(7) - that is where the book prints the radical dot in the common bottom structure. Net effect: the hydrogen hops from the carbon alpha to the acylium onto the former radical carbon and the unpaired electron migrates the other way, ending up alpha to C#O+ where it is stabilized as the ionized-ketene resonance form (the page's text: hydrogen rearrangement 'forming very stable (Table 8.3) enamine or ketene intermediates'). The book draws only the localized acyl-radical form, which is what is encoded (convention C). In this six-membered-ring case the radical carbon C(3) is the 6th carbon counted from the acylium carbon, which is exactly the position of the middle one of the three explicit hydrogens the book prints in the common bottom structure. Equilibrium arrows are drawn here too, hence reversible=true."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "70 eV EI", "collision_energy": null, "electron_energy_ev": 70.0, "precursor_mz": 112.0883, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_112", "species_id": "rearranged_alpha_acyl_radical_ion", "step_id": "step_hydrogen_rearrangement", "observed_mz": 112.0883, "hydrogen_shift": 0, "isotope_offset": 0, "status": "inferred", "confidence": 0.4}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-27T00:00:00Z", "modified_at": "2026-07-27T00:00:00Z"}}
